US07618961B2
Ethyl [2-({[2-methyl-4-(trifluoromethoxy)pbenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2-methyl-4-trifluoromethoxybenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (41.7 mg) with purity >90%. MS (pos) m/z 425.3.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2-methyl-4-trifluoromethoxybenzenesulfonyl chloride | CC1=C(C=CC(=C1)OC(F)(F)F)S(=O)(=O)Cl | C8H6ClF3O3S
product | Ethyl [2-({[2-methyl-4-(trifluoromethoxy)pbenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | CC1=C(C=CC(=C1)OC(F)(F)F)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C15H15F3N2O5S2
